US04057556
Conc. ammonium hydroxide solution (50 ml) is added dropwise to a suspension of 2-hydroxy-5-nitroso-2,4,6-cycloheptatrien-1-one [10 g, described by T. Nozoe et al., Sci. Repts. Tohoku Univ., 35, 274-82 (1952), (CA 47 329la)] collected and washed with water then acetone to give 2-amino-5-nitroso-2,4,6-cycloheptatrien-1-one.

reactant | 2-hydroxy-5-nitroso-2,4,6-cycloheptatrien-1-one | 10 g | OC=1C(C=CC(=CC1)N=O)=O | C7H5NO3
reactant | ammonium hydroxide | 50 ml | [OH-].[NH4+]
product | 2-amino-5-nitroso-2,4,6-cycloheptatrien-1-one | NC=1C(C=CC(=CC1)N=O)=O | C7H6N2O2
